US08207164B2
d) [2-Amino-2-(3-bromo-phenyl)-3,3,3-trifluoro-propoxy]-acetic acid ethyl ester
A solution of 1.4 g (2.47 mmol) [2-(3-bromo-phenyl)-2-tert-butoxycarbonylamino-3,3,3-trifluoro-propoxy]-acetic acid ethyl ester in 5 ml DCM was treated with 3.74 ml 4N HCl/dioxane. After standing overnight the mixture was evaporated, taken up in EtOAc and washed with 10% aqueous NaHCO3. The organic phase was washed with brine, dried with Na2SO4 and purified via chromatography on silica gel (c-hexane/10-15% EtOAc) to give the desired product as a colorless resin.

reactant | [2-(3-bromo-phenyl)-2-tert-butoxycarbonylamino-3,3,3-trifluoro-propoxy]-acetic acid ethyl ester | 2.47 mmol, 1.4 g | C(C)OC(COCC(C(F)(F)F)(NC(=O)OC(C)(C)C)C1=CC(=CC=C1)Br)=O | C18H23BrF3NO5
reactant | HCl dioxane | 4N, 3.74 ml | Cl.O1CCOCC1
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | [2-Amino-2-(3-bromo-phenyl)-3,3,3-trifluoro-propoxy]-acetic acid ethyl ester | C(C)OC(COCC(C(F)(F)F)(C1=CC(=CC=C1)Br)N)=O | C13H15BrF3NO3
